US07037925B2
4-[(1-Ethyl-1H-pyrazol-5-yl)amino]-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 1-ethyl-5-aminopyrazol (0.030 g, 0.27 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 7.5 h. The DMF was evaporated under reduced pressure and the residue was dissolved in a mixture of MeCN and water (1:7) containing 0.1% trifluoroacetic acid. Preparative HPLC using a gradient (containing 0.1% trifluoroacetic acid) of 10→40% MeCN in water as eluent gave, after evaporation, the title compound as the trifluoroacetic acid salt. The product was suspended in saturated aqueous NaHCO3 and absorbed on a short SPE column [ISOLUTE™ C18 (EC)] pre-conditioned subsequently with methanol and water. The column was washed extensively with water until the pH of the eluent was neutral. The product was then eluted with methanol, the solvent evaporated and the residue crystallized from ethanol to give the title compound (19 mg, 32%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 1-ethyl-5-aminopyrazol | 0.27 mmol, 0.030 g | C(C)N1N=CC=C1N | C5H9N3
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 4-[(1-Ethyl-1H-pyrazol-5-yl)amino]-6,7-dimethoxy-3-quinolinecarboxamide | 19 mg, 32% | C(C)N1N=CC=C1NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C17H19N5O3
